US09315489B2
Stage 42.1 5-Bromo-N-(4-(trifluoromethoxy)phenyl)nicotinamide
SOCl2 (10.84 mL, 148.5 mmol) was added to a suspension of 5-bromonicotinic acid (5 g, 24.75 mmol) in DCM (60 mL) and the RM was stirred at RT overnight. The solvent was evaporated off under reduced pressure and the residue was dissolved in DCM (40 mL), the mixture was cooled to 0° C. under a nitrogen atmosphere, DIPEA (8.65 mL, 49.5 mmol) was added dropwise, followed with a solution of 4-trifluoromethoxyaniline (3.65 mL, 27.2 mmol) in DCM (20 mL). The RM was stirred for 2 h, treated with sat. aq. Na2CO3 (100 mL), and extracted EtOAc. The combined extracts were washed with sat. solution of KH2PO4 (pH=4), brine, dried over MgSO4 and the solvent was evaporated off under reduced pressure to give a residue which was recrystallized from n-heptane/EtOAc to afford the title compound as beige needles. UPLC-MS (Condition 1) tR=2.71 min, m/z=360.9-362.9 [M+H]+, m/z=358.9-361.0 [M−H]−; 1H-NMR (400 MHz, DMSO-d6) δ ppm 7.40 (d, J=8.3 Hz, 2H) 7.87 (d, 2H) 8.55 (t, J=2.1 Hz, 1H) 8.93 (d, J=2.2 Hz, 1H) 9.07 (d, J=1.7 Hz, 1H) 10.67 (s, 1H).

reactant | SOCl2 | 148.5 mmol, 10.84 mL | O=S(Cl)Cl | Cl2OS
reactant | 5-bromonicotinic acid | 24.75 mmol, 5 g | BrC=1C=NC=C(C(=O)O)C1 | C6H4BrNO2
reactant | DIPEA | 49.5 mmol, 8.65 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | 4-trifluoromethoxyaniline | 27.2 mmol, 3.65 mL | FC(OC1=CC=C(N)C=C1)(F)F | C7H6F3NO
reactant | Na2CO3 | 100 mL | C(=O)([O-])[O-].[Na+].[Na+]
solvent | DCM | 60 mL | C(Cl)Cl | CH2Cl2
solvent | DCM | 20 mL | C(Cl)Cl | CH2Cl2
product | 5-Bromo-N-(4-(trifluoromethoxy)phenyl)nicotinamide | BrC=1C=NC=C(C(=O)NC2=CC=C(C=C2)OC(F)(F)F)C1 | C13H8BrF3N2O2
